US05382572
A solution of 1.6 g of 1-hexyl-3-ethoxycarbonyl-4-hydroxy-2(1H)-quinolinone in dichloromethane (20 ml) and ethanol (2 ml) was treated with excess diazomethane in ether for 10 mins and is then evaporated. The crude methylation product upon chromatography on silica gel yielded 1-hexyl-3-ethoxycarbonyl-4-methoxy-2(1H)-quinolinone (1.0 g). This product (1 .0 g) in dry toluene (10 ml) was cooled to -78° C. and a 1M solution of diisobutyl aluminum hydride (4.3 ml) was added dropwise in 10min. After 2.5 hours stirring at-78° C. the reaction mixture was worked up by stirring with aqueous ammonium chloride/1N hydrochloric acid followed by extraction with methylene chloride. The crude reduction product was chromatographed on silica gel and crystallized from ethyl acetate/hexane to give 1-hexyl-3-formyl-4-methoxy-2(1H)-quinolinone as a crystalline solid. That the expected product was obtained was confirmed by the spectral data: MS (FAB): m/e 288 (M.+ +1); NMR (CDCl3): δ4.12 (s, 3H, OCH3), 10.5 (s, 1H, CHO).

reactant | 1-hexyl-3-ethoxycarbonyl-4-hydroxy-2(1H)-quinolinone | 1.6 g | C(CCCCC)N1C(C(=C(C2=CC=CC=C12)O)C(=O)OCC)=O | C18H23NO4
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 1-hexyl-3-ethoxycarbonyl-4-methoxy-2(1H)-quinolinone | 1.0 g | C(CCCCC)N1C(C(=C(C2=CC=CC=C12)OC)C(=O)OCC)=O | C19H25NO4
